US04948804
1-benzoyl 5-n-octyloxy pyrrolidin-2-one
16.5 cm3 of a 15% solution of butyllithium in hexane is added at -60° C. to 5.3 g of 5-n-octyloxy pyrrolidin-2-one in solution in 200 cm3 of tetrahydrofuran. After agitation for 20 minutes at -60° C., then, while maintaining these conditions, a solution of 3.5 g of benzoyl chloride in 50 cm3 of tetrahydrofuran is added. Agitation is continued while allowing to return to ambient temperature. After concentration and chromatography on silica (eluent: toluene-ethyl acetate 8-2), 4.2 g of the product sought is obtained.

reactant | butyllithium | C(CCC)[Li]
reactant | 5-n-octyloxy pyrrolidin-2-one | C(CCCCCCC)OC1CCC(N1)=O | C12H23NO2
reactant | benzoyl chloride | 3.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | 1-benzoyl 5-n-octyloxy pyrrolidin-2-one | C(C1=CC=CC=C1)(=O)N1C(CCC1OCCCCCCCC)=O | C19H27NO3
